US08378104B2
ethyl {4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}acetate
A solution of isoquinoline-5-boronic acid (53.9 mg, 0.312 mmol) and ethyl[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]acetate (50.0 mg, 0.156 mol) in 1,4-dioxane (0.85 mL) and H2O (0.3 mL) was charged with potassium carbonate (32 mg, 0.23 mmol) and (1,1′-bis(diphenylphosphino)ferrocene)palladium dichloride (1 mg, 0.002 mmol) under an atmosphere of nitrogen. The mixture was heated in a microwave reactor at 100° C. for 40 min. Purification of the residue by flash chromatography (0 to 5% 7 N NH3/MeOH:EtOAc) afforded 27 mg (41%) of the title compound. 1H NMR (400 MHz, CD3OD) δ 9.36 (s, 1H), 8.57-8.63 (m, 1H), 8.52 (d, J=6.06 Hz, 1H), 8.37 (d, J=7.33 Hz, 1H), 8.27 (d, J=8.08 Hz, 1H), 8.18 (s, 1H), 7.98 (d, J=7.58 Hz, 2H), 7.85 (t, J=7.83 Hz, 1H), 7.55-7.62 (m, 1H), 7.53 (s, 1H), 4.28 (q, J=7.16 Hz, 2 H), 1.95 (s, 2H), 1.32 (t, 3H); MS (ESI): 415.16 [M+H]+; HPLC tR=0.94 min (TOF: polar—3 min).

reactant | isoquinoline-5-boronic acid | 0.312 mmol, 53.9 mg | C1=NC=CC=2C(=CC=CC12)B(O)O | C9H8BNO2
reactant | ethyl[4-(7-amino-2-chlorofuro[2,3-c]pyridin-4-yl)-1H-pyrazol-1-yl]acetate | 0.156 mol, 50.0 mg | C(C)OC(CN1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)Cl)=O | C14H13ClN4O3
reactant | potassium carbonate | 0.23 mmol, 32 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 0.85 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.3 mL | O | H2O
product | ethyl {4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}acetate | 27 mg, 41% | NC=1N=CC(=C2C1OC(=C2)C2=C1C=CN=CC1=CC=C2)C=2C=NN(C2)CC(=O)OCC | C23H19N5O3
